US08809538B2
5-Phenyloxazole-2-carbaldehyde
A solution of 5-phenyloxazole (0.192 g) in 2:1 tetrahydrofuran/diethyl ether (7 mL) was cooled to −78° C., and treated with n-butyl lithium (0.582 mL) dropwise under Argon. The mixture was stirred for 30 minutes at −78° C., at this time a solution of N-methyl-N-(pyridin-2-yl) formamide (0.270 g) in tetrahydrofuran (2.6 mL) was added dropwise to the solution. After stirring at −78° C. for 30 minutes, the mixture was allowed to warm up to room temperature and stirring continued overnight. The mixture was quenched by the addition of water and extracted with ethyl acetate. The combined extracts were washed with 10% hydrochloric acid, saturated aqueous solution of sodium bicarbonate and brine, dried and concentrated in vacuo and purified by column chromatography on silica gel (10-50% ethyl acetate in hexane) to provide the title compound (0.016 g) with the following physical data.

reactant | 5-phenyloxazole | 0.192 g | C1(=CC=CC=C1)C1=CN=CO1 | C9H7NO
reactant | tetrahydrofuran diethyl ether | 7 mL | O1CCCC1.C(C)OCC
reactant | n-butyl lithium | 0.582 mL | C(CCC)[Li]
reactant | N-methyl-N-(pyridin-2-yl) formamide | 0.270 g | CN(C=O)C1=NC=CC=C1 | C7H8N2O
solvent | tetrahydrofuran | 2.6 mL | O1CCCC1 | C4H8O
product | 5-Phenyloxazole-2-carbaldehyde | 0.016 g | C1(=CC=CC=C1)C1=CN=C(O1)C=O | C10H7NO2
